US08975282B2
Step 1) N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide
To a solution of 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide (111 mg, 0.25 mmol) in EtOAc (2 mL), CH3CN (2 mL) and H2O (1 mL) was added PhI(OAc)2 (97 mg, 0.3 mmol). The reaction was stirred at 0° C. for 30 minutes, then warmed up to rt and further stirred for 12 hours. The mixture was concentrated in vacuo and the residue was purified by a silica gel column chromatography (DCM/CH3OH (v/v)=40/1) to give the title compound as a light beige solid (85 mg, 81.7%).

reactant | 4-((6-(1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamido)pyridin-3-yl)oxy)picolinamide | 0.25 mmol, 111 mg | CN1N(C(C(=C1C)C(=O)NC1=CC=C(C=N1)OC1=CC(=NC=C1)C(=O)N)=O)C1=CC=CC=C1 | C23H20N6O4
reactant | PhI(OAc)2 | 0.3 mmol, 97 mg | C(C)(=O)OI(OC(C)=O)C1=CC=CC=C1 | C10H11IO4
reactant | CH3CN | 2 mL | CC#N | C2H3N
solvent | EtOAc | 2 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 1 mL | O | H2O
product | N-(5-((2-aminopyridin-4-yl)oxy)pyridin-2-yl)-1,5-dimethyl-3-oxo-2-phenyl-2,3-dihydro-1H-pyrazole-4-carboxamide | 85 mg, 81.7% | NC1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)C=1C(N(N(C1C)C)C1=CC=CC=C1)=O | C22H20N6O3
